US09290490B2
To a solution of ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl) carbonyl]cyclohexane-carboxylate (608 mg, 1.756 mmol) in THF (15 ml) was added trifluoromethyl trimethylsilane (0.520 ml, 3.51 mmol). Then, tetrabutylammonium fluoride (7.0 ml, 7.00 mmol) was added to the mixture slowly. After 1 h, the mixture was diluted with water and extracted with EtOAc. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified on silica gel (0-20% EtOAc in hexane) to afford racemic ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-2,2,2-trifluoro-1-hydroxyethyl]cyclohexanecarboxylate. MS ESI calc'd. for C14H17BrF3NO3S [M+H]+ 416, 418. found 416, 418. 1H NMR (500 MHz, CDCl3) δ 7.68 (s, 1H), 4.11 (q, J=7.1, 2H), 2.47-2.32 (m, 1H), 2.28-1.92 (m, 4H), 1.55-1.16 (m, 5H), 0.90 (t, J=7.3, 3H).

reactant | ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl) carbonyl]cyclohexane-carboxylate | 1.756 mmol, 608 mg | BrC1=CN=C(S1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C13H16BrNO3S
reactant | trifluoromethyl trimethylsilane | 3.51 mmol, 0.520 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 7.00 mmol, 7.0 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | racemic ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-2,2,2-trifluoro-1-hydroxyethyl]cyclohexanecarboxylate | BrC1=CN=C(S1)C(C(F)(F)F)(O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C14H17BrF3NO3S
